US08557809B2
Step A: Preparation of (R)-tert-butyl 1-(2-([1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperidin-3-ylcarbamate
2-([1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl trifluoromethanesulfonate (0.040 g, 0.10 mmol), (R)-tert-butyl piperidin-3-ylcarbamate (0.026 g, 0.13 mmol), cesium carbonate (0.050 g, 0.15 mmol), Pd2 dba3 (0.0046 g, 0.0051 mmol) and 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.0063 g, 0.010 mmol) were added to minimal degassed toluene and heated in a seal vial overnight at 92° C. After stirring overnight, DCM was added, solids removed through filtration (Waters filter), and the filtrate was concentrated. The crude material was purified by flash column chromatography (gradient elution of 6% NH4 in MeOH/DCM). The desired product (30 mg) was isolated, as a 1:1 mixture with the triflate starting material. The mixture was used without further purification.

reactant | 2-([1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl trifluoromethanesulfonate | 0.10 mmol, 0.040 g | FC(S(=O)(=O)OC=1C=CC=C2C=CC(=NC12)C1=NN=C2N1C=CC=C2)(F)F | C16H9F3N4O3S
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 0.13 mmol, 0.026 g | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | cesium carbonate | 0.15 mmol, 0.050 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.010 mmol, 0.0063 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
catalyst | Pd2 dba3 | 0.0051 mmol, 0.0046 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-tert-butyl 1-(2-([1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperidin-3-ylcarbamate | 30 mg | N=1N=C(N2C1C=CC=C2)C2=NC1=C(C=CC=C1C=C2)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C25H28N6O2
